US08975254B2
d) (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1H-pyrazol-3-yl)oxazole-4-carboxamide
N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)oxazole-4-carboxamide (56 mg, 0.111 mmol) was added into a flask under nitrogen atmosphere. 10% HCl/EtOH (0.126 ml, 0.277 mmol) was added and the reaction mixture was stirred in RT for 2 h. The reaction mixture was diluted with ethyl acetate and washed with 1M Na2CO3. The organic phase was dried, filtered and evaporated. The product was triturated using acetonitrile and THF, respectively. Yield 29.6%. 1H-NMR (400 MHz; CDCl3): δ 1.27 (d, 3H), 4.31 (dd, 1H), 4.43 (dd, 1H), 4.61 (m, 1H), 6.61 (d, 1H), 6.86 (d, 1H), 7.49 (d, 1H), 7.60 (d, 1H), 7.66 (d, 1H), 7.72 (d, 1H), 7.87 (dd, 1H), 7.92 (d, 1H), 8.23 (s, 1H), 10.78 (s, 1H).

reactant | N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)oxazole-4-carboxamide | 0.111 mmol, 56 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(OC1)C1=CC=NN1C1OCCCC1 | C25H24ClN7O3
reactant | HCl EtOH | 0.277 mmol, 0.126 ml | Cl.CCO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1H-pyrazol-3-yl)oxazole-4-carboxamide | Yield 29.6% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(OC1)C1=NNC=C1 | C20H16ClN7O2
